US06265411B1
A solution of 5-cyanooxindole (2.96 g, 18.7 mmol), (Tet. Lett., 1987, 28, 4027), in DMF (35 ml) was added dropwise under nitrogen to sodium hydride (749 mg, 18.7 mmol, prewashed with hexane) in DMF (15 ml). The mixture was stirred for 30 minutes at ambient temperature and 4-chloro-7-(2-(imidazol-1-yl)ethoxy)-6-methoxyquinazoline (1.98 g, 18.7 mmol), (prepared as described for the starting material in Example 22), was added as a solid. The mixture was heated at 55° C. for 45 minutes, allowed to cool and poured into a mixture of methylene chloride (400 ml) and saturated aqueous ammonium chloride solution (400 ml). The resulting precipitate was collected by filtration, resuspended in water and stirred for 15 minutes at ambient temperature. The solid was collected by filtration, washed with water and then ether, and dried under vacuum to give a white solid. This solid was suspended in methylene chloride (50 ml) and methanol (50 ml) and 2.2M ethereal hydrogen chloride (6 ml) was added. The mixture was stirred for 15 minutes at ambient temperature, the solid product was collected by filtration, washed with ether and dried under vacuum at 60° C. to give 4-(5-cyanooxindol-3-yl)-7-(2-(imidazol-1-yl)ethoxy)-6-methoxyquinazoline hydrochloride (2 g, 61%).

reactant | 5-cyanooxindole | 18.7 mmol, 2.96 g | C(#N)C=1C=C2CC(NC2=CC1)=O | C9H6N2O
reactant | sodium hydride | 18.7 mmol, 749 mg | [H-].[Na+]
reactant | 4-chloro-7-(2-(imidazol-1-yl)ethoxy)-6-methoxyquinazoline | 18.7 mmol, 1.98 g | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCN1C=NC=C1 | C14H13ClN4O2
reactant | ammonium chloride | 400 ml | [Cl-].[NH4+]
reactant | hydrogen chloride | 2.2M, 6 ml | Cl | ClH
solvent | DMF | 35 ml | CN(C)C=O | C3H7NO
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 50 ml | CO | CH4O
product | 4-(5-cyanooxindol-3-yl)-7-(2-(imidazol-1-yl)ethoxy)-6-methoxyquinazoline hydrochloride | 2 g, 61% | Cl.C(#N)C=1C=C2C(C(NC2=CC1)=O)C1=NC=NC2=CC(=C(C=C12)OC)OCCN1C=NC=C1 | InChI=1S/C23H18N6O3.ClH/c1-31-19-9-16-18(10-20(19)32-7-6-29-5-4-25-13-29)26-12-27-22(16)21-15-8-14(11-24)2-3-17(15)28-23(21)30;/h2-5,8-10,12-13,21H,6-7H2,1H3,(H,28,30);1H
